US06469004B1
Step b: Preparation of methyl 7-fluoro-6-(2-methyl-phenylamino)-benzo[1,2,5]oxadiazole-5-carboxylate
A solution comprised of methyl 7-fluoro-6-(2-methyl-phenylamino)-benzo[1,2,5]oxadiazole-5-carboxylate 2-oxide and sodium azide (1.38 equiv.) in ethylene glycol is heated to 140-150° C. for 30 minutes to obtain, after column chromatography, the desired product.

reactant | methyl 7-fluoro-6-(2-methyl-phenylamino)-benzo[1,2,5]oxadiazole-5-carboxylate 2-oxide | FC1=C(C(=CC2=N[O+](N=C21)[O-])C(=O)OC)NC2=C(C=CC=C2)C | C15H12FN3O4
reactant | sodium azide | 1.38 equiv. | [N-]=[N+]=[N-].[Na+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | methyl 7-fluoro-6-(2-methyl-phenylamino)-benzo[1,2,5]oxadiazole-5-carboxylate | FC1=C(C(=CC2=NON=C21)C(=O)OC)NC2=C(C=CC=C2)C | C15H12FN3O3
